* source FILTROS
R_R1         N14680 0  1.23645k TC=0,0 
R_R2         N14736 N14717  1.23645k TC=0,0 
R_R3         N14736 N14915  204.86 TC=0,0 
R_R4         N14915 N14896  204.86 TC=0,0 
C_C1         N15076 N14717  0.1u  TC=0,0 
C_C2         N14717 N14680  0.1u  TC=0,0 
C_C3         VOUT N14915  0.1u  TC=0,0 
C_C4         N14896 0  0.1u  TC=0,0 
E_U2         VOUT 0 VALUE {LIMIT(V(N14896,VOUT)*1E6,-15V,+15V)}
E_U3         N14736 0 VALUE {LIMIT(V(N14680,N14736)*1E6,-15V,+15V)}
V_V1         N15076 0 DC 0Vdc AC 1Vac 
